US07410963B2
5-(3-Amino-phenyl)-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one
1-Methyl-5-(3-nitro-phenyl)-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one Example 65 (40 mg, 0.11 mmole)was dissolved in Methanol/CH2Cl2 then Pd/C (10 mg) was added and the flask was stirred over hydrogene atmosphere. The solution was filtered over celite, and the solvent was evaporated. The crude material was chromatographied: eluant: AcOEt/Hexane: 1/1. The title compound (6 mg) was obtained as a beige solid, (yield=16%).

reactant | 1-Methyl-5-(3-nitro-phenyl)-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | CN1C(CN=C(C2=C1C=CC(=C2)C2=CC=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-])=O | C22H17N3O3
solvent | Methanol CH2Cl2 | CO.C(Cl)Cl
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 5-(3-Amino-phenyl)-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 6 mg, yield=16% | NC=1C=C(C=CC1)C=1C2=C(N(C(CN1)=O)C)C=CC(=C2)C2=CC=CC=C2 | C22H19N3O
